US07217794B2
A solution of 2-methylsulfanyl-3H-pyrimidin-4-one (36 g, 0.25 mol) in glacial acetic acid (500 mL) was cooled to 0° C. in an ice bath and treated with Br2 (15.6 mL, 0.3 mol). The reaction mixture changed in color from yellow to brown within 0.5 hours, and was allowed to warm to room temperature where it stirred overnight. When all the starting material had been consumed (as indicated by TLC and HPLC UV detection at λ=254 nm), the reaction mixture was slowly poured into a mixture of ice/H2O (2 liters). The resulting white precipitate was collected by vacuum filtration and washed with H2O (200 mL) and Et2O (2×250 mL). The off-white solid was then suspended in anhydrous toluene (250 mL) and concentrated to dryness under reduced pressure in a 60° C. H2O bath. 5-Bromo-2-methylsulfanyl-3H-pyrimidin-4-one was obtained as a white solid (30.4 g, 55% yield).

reactant | 2-methylsulfanyl-3H-pyrimidin-4-one | 0.25 mol, 36 g | CSC1=NC=CC(N1)=O | C5H6N2OS
reactant | Br2 | 0.3 mol, 15.6 mL | BrBr | Br2
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
product | 5-Bromo-2-methylsulfanyl-3H-pyrimidin-4-one | BrC=1C(NC(=NC1)SC)=O | C5H5BrN2OS
